US05703071
60% oily sodium hydride (292, mg, 7.3 mmol) in small portions were added to a solution of 2-hydroxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one (1.29 g, 6.64 mmol) in dimethylformamide (5 ml) with stirring. After addition of 1,3-dibromopropane (1.35 ml, 13.3 mmol), the solution was heated at 80° C. for 4 hours. The solution was diluted with dichloromethane, washed with water, and dried over sodium sulfate. After solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (1:1)] to give 293 mg of 2-(3-bromopropoxy)-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one as a pale yellow crystal (yield: 14%).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-hydroxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one | 6.64 mmol, 1.29 g | OC=1C(C(=CC=C(C1)C(C)C)CO)=O | C11H14O3
reactant | 1,3-dibromopropane | 13.3 mmol, 1.35 ml | BrCCCBr | C3H6Br2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3-bromopropoxy)-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one | 293 mg, yield: 14% | BrCCCOC=1C(C(=CC=C(C1)C(C)C)CO)=O | C14H19BrO3
